US06063818
A 500 ml, three-necked flask is fitted with a reflux condenser, drying tube, stirrer and N2 inlet. To a mixture of 55.4 g (0.39 mol) of 2,4-difluorobenzaldehyde and 56 ml of propionic anhydride is added 38 g (0.39 mol) of sodium propionate. The reaction mixture is heated at 135-140° C. (oil bath temp.) for 19 hours with stirring under nitrogen. The still warm solution is poured into 1 l of water with stirring. A solid separates, which is dissolved by 56 g of potassium hydroxide. The solution is extracted with ether. The water phase is heated on the steam bath to remove the ether. After cooling in an ice-bath, concentrated hydrochloric acid is added with stirring. The solid which separates is collected and washed with cold water. Drying at 60° C. over KOH gives 2,4-difluoro-α-methylcinnamic acid, M.P. 126-128° C.

reactant | 2,4-difluorobenzaldehyde | 0.39 mol, 55.4 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | propionic anhydride | 56 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium propionate | 0.39 mol, 38 g | C(CC)(=O)[O-].[Na+]
reactant | potassium hydroxide | 56 g | [OH-].[K+]
solvent | water | 1 l | O | H2O
product | 2,4-difluoro-α-methylcinnamic acid | FC1=C(C=C(C(=O)O)C)C=CC(=C1)F | C10H8F2O2
